US08466292B2
3.4 Methyl 1-{[(3-chloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]-phenyl}-5-methyl-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexane-carboxylate hydrochloride
To a suspension of 134 mg (0.29 mmol) of 3-chloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-methyl-2,3′-bipyridine-6′-carboxylic acid in 5 mL of anhydrous acetonitrile are successively added 0.18 mL (1.02 mmol) of DIEA and 56 mg (0.29 mmol) of methyl 1-aminocyclo-hexanecarboxylate hydrochloride. The mixture is cooled to 0° C. and 112 mg (0.35 mmol) of TBTU are added. After stirring for 18 hours between 0 and 10° C., the reaction medium is concentrated under reduced pressure and then taken up in 20 mL of a 1/1 EtOAc/ether mixture. After washing with 10 mL of water and 10 mL of saturated aqueous NaHCO3 solution, the organic phase is dried over Na2SO4 and concentrated under reduced pressure. 0.2 mL (0.1 mmol) of a 2N solution of HCl in ether and then 20 mL of anhydrous ether are added to the residue, taken up in 5 mL of DCM, which allows precipitation of 139 mg of methyl 1-{[(3-chloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-methyl-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexanecarboxylate hydrochloride in the form of a white powder.

reactant | 3-chloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-methyl-2,3′-bipyridine-6′-carboxylic acid | 0.29 mmol, 134 mg | ClC=1C(=NC=C(C1)C)C=1C(=NC(=CC1)C(=O)O)C1=CC(=C(C=C1)Cl)OCCCN(C)C | C23H23Cl2N3O3
reactant | DIEA | 1.02 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 1-aminocyclo-hexanecarboxylate hydrochloride | 0.29 mmol, 56 mg | Cl.NC1(CCCCC1)C(=O)OC
reactant | TBTU | 0.35 mmol, 112 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Methyl 1-{[(3-chloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]-phenyl}-5-methyl-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexane-carboxylate hydrochloride | Cl.ClC=1C(=NC=C(C1)C)C=1C(=NC(=CC1)C(=O)NC1(CCCCC1)C(=O)OC)C1=CC(=C(C=C1)Cl)OCCCN(C)C | InChI=1S/C31H36Cl2N4O4.ClH/c1-20-17-24(33)28(34-19-20)22-10-12-25(29(38)36-31(30(39)40-4)13-6-5-7-14-31)35-27(22)21-9-11-23(32)26(18-21)41-16-8-15-37(2)3;/h9-12,17-19H,5-8,13-16H2,1-4H3,(H,36,38);1H
